US04599344
3-[2-(4-Aminophenyl)ethylidene]-1-azabicyclo[2.2.2]octane dihydrochloride
To 7.75 g (0.03 mole) of 3-[2-(4-nitrophenyl)ethylidene]-1-azabicyclo[2.2.2]octane hydrochloride and 7.12 g (0.06 mole) of mossy tin suspended in 50 ml of water add 30 ml (0.36 mole) of concentrated hydrochloric acid in six portions with good mixing. Maintain the reaction just near the boiling point, cooling if necessary. After the reaction slows heat the mixture at 80°-90° C. with good stirring for 1 hour. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile:ammonium hydroxide, 95:5). At the completion of the reaction cool the mixture to 0°-5° C. Add 20% sodium hydroxide to bring the mixture to pH>12. Filter any solids if necessary and wash the solids well with methylene chloride solution. Extract the aqueous mixture with four 100 ml portions of methylene chloride. Combine the methylene chloride washes and extracts, and wash them with 50 ml of water and 50 ml of saturated sodium chloride solution. Dry the methylene chloride solution over anhydrous sodium sulfate, filter and remove the solvent in vacuo to provide the title compound as the free base.

reactant | 3-[2-(4-nitrophenyl)ethylidene]-1-azabicyclo[2.2.2]octane hydrochloride | 0.03 mole, 7.75 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CC=C1CN2CCC1CC2
reactant | tin | 0.06 mole, 7.12 g | [Sn] | Sn
reactant | hydrochloric acid | 0.36 mole, 30 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3-[2-(4-Aminophenyl)ethylidene]-1-azabicyclo[2.2.2]octane dihydrochloride | Cl.Cl.NC1=CC=C(C=C1)CC=C1CN2CCC1CC2 | InChI=1S/C15H20N2.2ClH/c16-15-5-2-12(3-6-15)1-4-14-11-17-9-7-13(14)8-10-17;;/h2-6,13H,1,7-11,16H2;2*1H
